US08211820B2
Preparation of biphenyl-3-yl-dimethylamine
Using a THF solution of phenylmagnesium bromide (1.19 mL, 1.01 M, 1.2 mmol) and 3-chloro-N,N-dimethylaniline (155.6 mg, 1.0 mmol) as starting materials, the reaction was performed at a scale of 1.0 mmol at 60° C. for 24 hours in the same manner as in Example 2. After performing silica gel column chromatography (toluene=50 and 100% in hexane), the above compound was obtained as a colorless liquid (0.185 g, yield=94%, purity=>98% (GC analysis)).

reactant | THF | C1CCOC1 | C4H8O
reactant | phenylmagnesium bromide | 1.2 mmol, 1.01 M, 1.19 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 3-chloro-N,N-dimethylaniline | 1.0 mmol, 155.6 mg | ClC=1C=C(N(C)C)C=CC1 | C8H10ClN
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | biphenyl-3-yl-dimethylamine | yield=94% | C1(=CC(=CC=C1)N(C)C)C1=CC=CC=C1 | C14H15N
